US08207164B2
i) 5-(3-Bromo-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine
5-(3-Bromo-phenyl)-5-difluoromethyl-morpholine-3-thione (7.49 g, 23.25 mmol) was dissolved in 36 ml 7N NH3 in methanol and stirred at room temperature for 18 h. After completion, volatiles were removed under reduced pressure to yield the title compound. 1H-NMR (360 MHz, DMSO-d6): 7.80 (s, 1H), 7.52 (m, 2H), 7.33 (m, 1H), 6.25 (br, 2H, NH2), 6.04 (t, 1H, CHF2), 4.15-3.90 (m, 2H), 3.72 (d, 1H), 3.45 (d, 1H); MS: 305 [(M+)+].

reactant | 5-(3-Bromo-phenyl)-5-difluoromethyl-morpholine-3-thione | 23.25 mmol, 7.49 g | BrC=1C=C(C=CC1)C1(COCC(N1)=S)C(F)F | C11H10BrF2NOS
reactant | NH3 | 7N, 36 ml | N | H3N
solvent | methanol | CO | CH4O
product | 5-(3-Bromo-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | BrC=1C=C(C=CC1)C1(N=C(COC1)N)C(F)F | C11H11BrF2N2O
